US04689330
To a stirred mixture of 1.12 parts of 2-furancarboxylic acid, 2.02 parts of N,N-diethylethanamine and 195 parts of dichloromethane were added 2.55 parts of 2-chloro-1-methylpyridinium iodide. Stirring was continued for 30 minutes at room temperature. A solution of 3.93 parts of N-[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinylmethyl]-2-benzothiazolamine in tetrahydrofuran was added and the whole was stirred first for 1 hour at room temperature and then overnight at reflux. After cooling, the reaction mixture was poured into water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanone. The salt was filtered off and dried, yielding 2.2 parts (41.8%) of N-(2-benzothiazolyl)-N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]-methyl]-2-furancarboxamide monohydrochloride; mp. 217.7° C. (compound 63).

reactant | 2-furancarboxylic acid | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | [I-].ClC1=[N+](C=CC=C1)C
reactant | N-[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinylmethyl]-2-benzothiazolamine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC=2SC1=C(N2)C=CC=C1 | C22H25N3O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-benzothiazolyl)-N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]-methyl]-2-furancarboxamide monohydrochloride | 41.8% | Cl.S1C(=NC2=C1C=CC=C2)N(C(=O)C=2OC=CC2)CC2CCN(CC2)CC2COC1=C(O2)C=CC=C1 | InChI=1S/C27H27N3O4S.ClH/c31-26(24-9-5-15-32-24)30(27-28-21-6-1-4-10-25(21)35-27)16-19-11-13-29(14-12-19)17-20-18-33-22-7-2-3-8-23(22)34-20;/h1-10,15,19-20H,11-14,16-18H2;1H
